US04420487
Preparation of 2-Benzyl-5-Chloro-6-Sulfamyl-1H-Benzimidazole Hydrochloride Monohydrate
A mixture of 12.0 g of 2-amino-4-chloro-5-sulfamylaniline, 29.5 g of phenylacetic acid, and 54.5 ml of a 15% hydrochloric acid solution was refluxed for 6 hours and the blue precipitate collected by filtration. The crude product was dissolved in hot methanol and the organic solvent then treated with charcoal. Filtration followed by conc. in vacuo gave crystals which upon trituration with methanol and drying provided 8.2 g of pink crystals, m.p. 176°-180° C.

reactant | 2-amino-4-chloro-5-sulfamylaniline | 12.0 g | NC1=C(N)C=C(C(=C1)Cl)S(N)(=O)=O | C6H8ClN3O2S
reactant | phenylacetic acid | 29.5 g | C1(=CC=CC=C1)CC(=O)O | C8H8O2
reactant | hydrochloric acid | Cl | ClH
product | 2-Benzyl-5-Chloro-6-Sulfamyl-1H-Benzimidazole Hydrochloride Monohydrate | 8.2 g | O.Cl.C(C1=CC=CC=C1)C1=NC2=C(N1)C=C(C(=C2)Cl)S(N)(=O)=O | InChI=1S/C14H12ClN3O2S.ClH.H2O/c15-10-7-11-12(8-13(10)21(16,19)20)18-14(17-11)6-9-4-2-1-3-5-9;;/h1-5,7-8H,6H2,(H,17,18)(H2,16,19,20);1H;1H2
